US06274620B1
Acetic acid 2-[3-amino-2-(2,4,6-trimethyl-benzenesulfonylamino)-propionylamino]-ethyl ester (X-7).
3-{[5-(3-Guanidino-phenyl)-thiophene-2-carbonyl]-amino}-2-(2,4,6-trimethyl-benzenesulfonylamino)-2-acetoxyethyl propionamide (X-9) was treated with excess methanolic ammonia resulting in the formation of 3-{[5-(3-Guanidino-phenyl)-thiophene-2-carbonyl]-amino}-2-(2,4,6-trimethyl-benzenesulfonylamino)-2-hydroxyethyl propionamide (X-9).

reactant | 3-{[5-(3-Guanidino-phenyl)-thiophene-2-carbonyl]-amino}-2-(2,4,6-trimethyl-benzenesulfonylamino)-2-acetoxyethyl propionamide | N(C(=N)N)C=1C=C(C=CC1)C1=CC=C(S1)C(=O)NCC(C(=O)N)(NS(=O)(=O)C1=C(C=C(C=C1C)C)C)CCOC(C)=O | C28H34N6O6S2
reactant | ammonia | N | H3N
reactant | 3-{[5-(3-Guanidino-phenyl)-thiophene-2-carbonyl]-amino}-2-(2,4,6-trimethyl-benzenesulfonylamino)-2-hydroxyethyl propionamide | N(C(=N)N)C=1C=C(C=CC1)C1=CC=C(S1)C(=O)NCC(C(=O)N)(NS(=O)(=O)C1=C(C=C(C=C1C)C)C)CCO | C26H32N6O5S2
product | Acetic acid 2-[3-amino-2-(2,4,6-trimethyl-benzenesulfonylamino)-propionylamino]-ethyl ester | NCC(C(=O)NCCOC(C)=O)NS(=O)(=O)C1=C(C=C(C=C1C)C)C | C16H25N3O5S
